US07897627B2
c) Step 3: rac-5,6-Difluoro-2-methanesulfinyl-benzothiazole
To a solution of 240 mg (1.1 mmol) 5,6-difluoro-2-methylsulfanyl-benzothiazole in 8 mL methanol under nitrogen at 0-5° C., was added drop wise a solution of 1.019 g (1.658 mmol) oxone in 4 mL water. The reaction mixture was stirred at 0° C. for 1 h. The suspension was diluted with water (10 mL). The solid was filtered, washed with water and dissolved in dichloromethane. The solution was dried over Na2SO4, filtered, concentrated in vacuo and purified with flash column chromatography on silica eluting with a gradient formed from n-heptane and ethyl acetate to provide 130 mg (50.6%) of the title compound as white solid. MS(m/e): 234.1 (M+H+).

reactant | 5,6-difluoro-2-methylsulfanyl-benzothiazole | 1.1 mmol, 240 mg | FC=1C(=CC2=C(N=C(S2)SC)C1)F | C8H5F2NS2
reactant | oxone | 1.658 mmol, 1.019 g | OOS(=O)[O-].[K+]
solvent | methanol | 8 mL | CO | CH4O
solvent | water | 4 mL | O | H2O
solvent | water | 10 mL | O | H2O
product | rac-5,6-Difluoro-2-methanesulfinyl-benzothiazole | 130 mg, 50.6% | FC=1C(=CC2=C(N=C(S2)S(=O)C)C1)F | C8H5F2NOS2
